US06494923B2
Method for Preparing 4-(3-(4-dimethylaminophenyl)allylidene)-2-(2-hydroxyethyl)-5-methyl-2,4-dihydropyrazol-3-one (5)
12.85 g of 5-hydroxy-1-hydroxyethyl-3-methyl-1H-pyrazole and 3.5 g of 4-dimethylaminocinnamaldehyde in 30 mL of 2-butanol were allowed to reflux 14 hours. Upon cooling, the dye crystallized.

reactant | 5-hydroxy-1-hydroxyethyl-3-methyl-1H-pyrazole | 12.85 g | OC1=CC(=NN1C(C)O)C | C6H10N2O2
reactant | 4-dimethylaminocinnamaldehyde | 3.5 g | CN(C1=CC=C(C=CC=O)C=C1)C | C11H13NO
reactant | 2-butanol | 30 mL | CC(CC)O | C4H10O
product | 4-(3-(4-dimethylaminophenyl)allylidene)-2-(2-hydroxyethyl)-5-methyl-2,4-dihydropyrazol-3-one | CN(C1=CC=C(C=C1)C=CC=C1C(N(N=C1C)CCO)=O)C | C17H21N3O2
